US07132547B2
1,3-Dimethyl-3,6,7,8-tetrahydro-1H-naphtho[2,3-d]imidazole-2,5-dione
Oxalyl chloride (7.0 ml, 81 mmol) was added by portions to a solution of 4-(1,3-dimethyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)butanoic acid (20 g, 81 mmol) obtained in Reference Example 136 and dimethylformamide (1 ml) in tetrahydrofuran under ice-cooling. After stirring at room temperature for 30 minutes, the reaction mixture was concentrated, the reaction residue was dissolved in nitroethane, and aluminum chloride (21.6 g, 162 mmol) was added by portions under ice-cooling. After stirring at room temperature for 30 minutes, the reaction mixture was poured into ice (500 g), extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was crystallized from ethanol-diethyl ether to give the title compound as colorless crystals (18.0 g).

reactant | Oxalyl chloride | 81 mmol, 7.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(1,3-dimethyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)butanoic acid | 81 mmol, 20 g | CN1C(N(C2=C1C=CC(=C2)CCCC(=O)O)C)=O | C13H16N2O3
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | aluminum chloride | 162 mmol, 21.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,3-Dimethyl-3,6,7,8-tetrahydro-1H-naphtho[2,3-d]imidazole-2,5-dione | 18.0 g | CN1C(N(C2=C1C=C1CCCC(C1=C2)=O)C)=O | C13H14N2O2
